US09403834B2
To a stirred solution of 3-phenyl-1H-pyrrole-2-carbohydrazide (3.80 g, 19.0 mmol) in DCM (60 mL) was added DIPEA (9.89 mL, 56.7 mmol) followed by methyl chloroformate (2.19 mL, 28.3 mmol) at room temperature. The above mixture was stirred for 15 min and was diluted with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography using CombiFlash (REDISEP®, silica gel, 80 g, 50% EtOAc/hexanes) as an eluent to yield methyl 2-(3-phenyl-1H-pyrrole-2-carbonyl)hydrazinecarboxylate (4.00 g, 75.0%) as an off-white solid. LCMS method B-2: retention time 1.75 min, [M+1]=260.2. 1H NMR (400 MHz, DMSO-d6) δ ppm: 3.61 (s, 3H), 6.27 (d, J=2.8 Hz, 1H), 6.95 (d, J=2.8 Hz, 1H), 7.20-7.34 (m, 3H), 7.51-7.52 (m, 2H), 9.14 (br s, 2H), 11.51 (br s, 1H).

reactant | 3-phenyl-1H-pyrrole-2-carbohydrazide | 19.0 mmol, 3.80 g | C1(=CC=CC=C1)C1=C(NC=C1)C(=O)NN | C11H11N3O
reactant | DIPEA | 56.7 mmol, 9.89 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 28.3 mmol, 2.19 mL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | methyl 2-(3-phenyl-1H-pyrrole-2-carbonyl)hydrazinecarboxylate | 4.00 g, 75.0% | C1(=CC=CC=C1)C1=C(NC=C1)C(=O)NNC(=O)OC | C13H13N3O3
